US08252755B2
Preparation of 1-(((9H-fluoren-9-yl)methoxy)carbonyl)-4-hydroxypyrrolidine-2-carboxylic acid (IX)
Trans-4-hydroxyproline (5.0 g, 38.1 mmoles) is suspended in a mixture of dioxane (75 mL) and water (75 mL), and stirred briskly at ambient temperature. Sodium bicarbonate (8.0 g, 95.2 mmoles) is added. And the mixture is stirred until all solids dissolve. A solution of 9-fluorenylmethyl chloroformate (11.4 g, 44.0 mmoles) in toluene (25 mL) is added slowly dropwise. The mixture is then stirred for 16 hours. Water (50 mL) and saturated aqueous sodium bicarbonate (50 mL) are added to the reaction mixture, which is then poured into a separatory funnel and washed with diethyl ether (100 mL). The layers are separated, and the aqueous layer is titrated to a pH of about 2 (as determined using pH paper) with concentrated aqueous hydrochloric acid. Ethyl acetate (150 mL) is added to the acidic solution; the mixture is shaken well, and then poured into a separatory funnel. The layers are separated and the aqueous layer extracted again with ethyl acetate (150 mL). The combined ethyl acetate extracts are dried over anhydrous sodium sulfate, filtered and evaporated to a white glassy foam. The crude product is purified on silica gel (400 mL bed volume) eluting with ethyl acetate:acetic acid (100:2 [v/v], 1800 mL), then ethyl acetate:methanol:acetic acid (95:5:2 [v/v/v], 1000 mL). Fractions containing pure product by thin layer chromatography are pooled and evaporated to a clear colorless syrup. The syrup is co-evaporated three time with toluene (150 mL each) to remove residual acetic acid. The resulting amorphous white solid is dried well in vacuo. The yield is 12.0 g (89%).

reactant | Trans-4-hydroxyproline | 38.1 mmoles, 5.0 g | O[C@@H]1C[C@H](NC1)C(=O)O | C5H9NO3
reactant | Sodium bicarbonate | 95.2 mmoles, 8.0 g | C([O-])(O)=O.[Na+]
reactant | 9-fluorenylmethyl chloroformate | 44.0 mmoles, 11.4 g | ClC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C15H11ClO2
reactant | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
solvent | dioxane | 75 mL | O1CCOCC1 | C4H8O2
solvent | water | 75 mL | O | H2O
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
solvent | Water | 50 mL | O | H2O
product | 1-(((9H-fluoren-9-yl)methoxy)carbonyl)-4-hydroxypyrrolidine-2-carboxylic acid | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N1C(CC(C1)O)C(=O)O | C20H19NO5
